US07429660B2
(6-Bromo-thianthren-2-yl)-carbamic acid tert-butyl ester
Di-tert-butyl dicarbonate (100 g, 0.458 mol) was added to a solution of 6-bromo-thianthren-2-ylamine (118.51 g, 0.382 mol) in dry THF (500 ml). The mixture was stirred and heated at 50° C. overnight. The solvent was removed in vacuo and the residue was triturated in methanol to give the title compound as a pale brown solid (40.87 g, 26%). 1HNMR (300 MHz, CDCl3): δH=1.51 (9H, s); 6.50 (1H, bs); 7.08 (1H, t); 7.16 (1H, dd); 7.43 (2H, m); 7.51 (1H, dd); 7.71 (1H, d).

reactant | Di-tert-butyl dicarbonate | 0.458 mol, 100 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 6-bromo-thianthren-2-ylamine | 0.382 mol, 118.51 g | BrC1=C2SC=3C=CC(=CC3SC2=CC=C1)N | C12H8BrNS2
solvent | THF | 500 ml | C1CCOC1 | C4H8O
product | (6-Bromo-thianthren-2-yl)-carbamic acid tert-butyl ester | 40.87 g, 26% | C(C)(C)(C)OC(NC1=CC=2SC3=CC=CC(=C3SC2C=C1)Br)=O | C17H16BrNO2S2
